US08133882B2
To a 10 ml THF solution of 500 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-N-methoxy-N-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide was added 1.2 ml of a 1 M methyl lithium THF solution, followed by stirring at room temperature for 3 days. Water was added to the reaction mixture to carry out celite filtration. After evaporation under a reduced pressure, the resulting residue was purified by silica gel column chromatography to obtain 150 mg of 3-acetyl-7-(cyclohexylamino)-1-cyclopentyl-6-fluoroquinolin-4(1H)-one.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-N-methoxy-N-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | 500 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C(=O)N(C)OC)=O)F | C23H30FN3O3
solvent | Water | O | H2O
product | 3-acetyl-7-(cyclohexylamino)-1-cyclopentyl-6-fluoroquinolin-4(1H)-one | 150 mg | C(C)(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CCCC1 | C22H27FN2O2
